US07652051B2
Synthesis of 6-{4-[5-(4-trifluoromethoxy-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridazin-3-ylamine trifluoroacetic acid salt
4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol (112.0 mg, 0.33 mmol) was dissolved in 2 mL of anhydrous DMF in a 5 mL microwave vial (Personal Chemistry). Solid potassium bis(trimethylsilyl)amide (132.8 mg, 0.66 mmol) was added and the reaction mixture was stirred with heating at 80° C. for 15 min, then 3-amino-6-chloropyridazine (47.4 mg, 0.366 mmol) was added, followed by anhydrous K2CO3 (46.0 mg, 0.33 mmol). Then the vial was capped and microwaved at 250° C. for 15 min. Then the reaction mixture was diluted with ca. 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by reverse-phase preparative HPLC in acetonitrile/water system with 0.01% TFA. The product was isolated as a TFA salt (52.1 mg of brown crystalline solid).

reactant | 4-[5-(4-trifluoromethoxy-phenylamino)-4H[1,2,4]triazol-3-yl]-phenol | 0.33 mmol, 112.0 mg | FC(OC1=CC=C(C=C1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O2
reactant | potassium bis(trimethylsilyl)amide | 0.66 mmol, 132.8 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-amino-6-chloropyridazine | 0.366 mmol, 47.4 mg | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | K2CO3 | 0.33 mmol, 46.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | ca. 1 mL | CO | CH4O
product | 6-{4-[5-(4-trifluoromethoxy-phenylamino)-4H-[1,2,4]triazol-3-yl]-phenoxy}-pyridazin-3-ylamine trifluoroacetic acid salt | 52.1 mg | FC(C(=O)O)(F)F.FC(OC1=CC=C(C=C1)NC=1NC(=NN1)C1=CC=C(OC2=CC=C(N=N2)N)C=C1)(F)F | InChI=1S/C19H14F3N7O2.C2HF3O2/c20-19(21,22)31-14-7-3-12(4-8-14)24-18-25-17(28-29-18)11-1-5-13(6-2-11)30-16-10-9-15(23)26-27-16;3-2(4,5)1(6)7/h1-10H,(H2,23,26)(H2,24,25,28,29);(H,6,7)
